US08703946B2
Sodium triacetoxyborohydride (20.8 mg, 0.093 mmol) was added to a stirred solution of 2-phenoxymethyl-6,7-dihydro-pyrazolo[1,5-a]pyrazine (15 mg, 0.062 mmol) in DCM (0.5 mL). The mixture was stirred at room temperature for 16 hours and then, 4-fluorobenzoyl chloride (0.011 mL, 0.093 mmol) was added and the mixture stirred at room temperature for 1 hour. The mixture was diluted with a saturated solution of Na2CO3 and extracted with DCM. The organic layer was separated, dried (Na2SO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in DCM 0/100 to 50/50). The desired fractions were collected and the solvents evaporated in vacuo to yield rac-(4-fluoro-phenyl)-(2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-methanone (19 mg, 84% yield) as a colourless oil that precipitated upon standing. 1H NMR (500 MHz, CDCl3) δ ppm 1.56 (d, J=6.9 Hz, 3H), 3.59 (br. s., 1H), 4.34 (br. s., 1H), 4.05-4.22 (m, 1H), 4.22-4.32 (m, 1H), 5.04 (s, 2H), 5.58 (br. s., 1H), 6.15 (br. s., 1H), 6.96 (t, J=7.4 Hz, 1H), 7.00 (d, J=7.8 Hz, 2H), 7.10-7.20 (m, 2H), 7.27-7.34 (m, 2H), 7.40-7.49 (m, 2H).

reactant | Sodium triacetoxyborohydride | 0.093 mmol, 20.8 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 2-phenoxymethyl-6,7-dihydro-pyrazolo[1,5-a]pyrazine | 0.062 mmol, 15 mg | O(C1=CC=CC=C1)CC1=NN2C(C=NCC2)=C1 | C13H13N3O
reactant | 4-fluorobenzoyl chloride | 0.093 mmol, 0.011 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | rac-(4-fluoro-phenyl)-(2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-methanone | 19 mg, 84% yield | FC1=CC=C(C=C1)C(=O)N1CC=2N(CC1)N=C(C2)COC2=CC=CC=C2 | C20H18FN3O2
